US08859605B2
Step a) (9H-fluoren-9-yl)methyl 1-(1-hydroxy-2-(1-methyl-1H-pyrazol-3-ylamino)-2-oxoethyl)cyclobutylcarbamate (A39-a)
{1-[Hydroxy-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-methyl]-cyclobutyl}-carbamic acid tert-butyl ester (209 mg, 0.64 mmol) was treated with HCl (4M in dioxane, 5 mL) overnight and then concentrated. The resulting hydrochloride salt was added to a solution of Fmoc-Cl (232 mg, 0.89 mmol) in dioxane:water 2:3, whereafter NaHCO3 (181 mg, 2.24 mmol) was added. The reaction mixture was stirred at room temperature and after for 40 min the solution was diluted with DCM and extracted. The organic phase was washed with brine, dried (NaSO4) and concentrated. Purification by flash column chromatography (EtOAc/iso-Hexane, 4:6-6:4) gave the title compound as a white solid (257 mg, 90%). MS m/z 446.9 (M+H)+.

reactant | {1-[Hydroxy-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-methyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.64 mmol, 209 mg | C(C)(C)(C)OC(NC1(CCC1)C(C(NC1=NN(C=C1)C)=O)O)=O | C15H24N4O4
reactant | HCl | 4M, 5 mL | Cl | ClH
reactant | Fmoc-Cl | 0.89 mmol, 232 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | NaHCO3 | 2.24 mmol, 181 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane water | O1CCOCC1.O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (9H-fluoren-9-yl)methyl 1-(1-hydroxy-2-(1-methyl-1H-pyrazol-3-ylamino)-2-oxoethyl)cyclobutylcarbamate | 257 mg, 90% | OC(C(=O)NC1=NN(C=C1)C)C1(CCC1)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C25H26N4O4
